US05962458
Diethyl azodicarboxylate (1.1 ml, 7 mmol) was added dropwise to a solution of 7-hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (1.7 g, 5.55 mmol), 2-(1,2,4-triazol-1-yl)ethanol (791 mg, 7 mmol), (Ann. Pharm. Fr. 1977, 35, 503-508) and triphenylphosphine (1.8 g, 7 mmol) cooled at 5° C. The mixture was allowed to warm to ambient temperature and stirred for 1 hour. The mixture was poured directly on to a column of silica and eluted with methylene chloride/methanol (95/5) to give 6-methoxy-3-((pivaloyloxy)methyl)-7-(2-(1,2,4-triazol-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one (1.64 g, 74%).

reactant | Diethyl azodicarboxylate | 7 mmol, 1.1 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 7-hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 5.55 mmol, 1.7 g | OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C15H18N2O5
reactant | 2-(1,2,4-triazol-1-yl)ethanol | 7 mmol, 791 mg | N1(N=CN=C1)CCO | C4H7N3O
reactant | triphenylphosphine | 7 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 6-methoxy-3-((pivaloyloxy)methyl)-7-(2-(1,2,4-triazol-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one | 1.64 g, 74% | COC=1C=C2C(N(C=NC2=CC1OCCN1N=CN=C1)COC(C(C)(C)C)=O)=O | C19H23N5O5
